US07626010B2
A solution of 21-desethyl-21-cyclobutyl spinosyn A (3.1 mg, 0.004 mmol) in 2 mL of toluene and 0.5 mL of ethanol was purged with a slow stream of nitrogen for 20 minutes, then 2 mg of chlorotris(triphenylphosphine) rhodium was added and the solution hydrogenated at 60° C. and 1 atm. for 16 hours. After cooling and removal of solvent, the residue was chromatographed using a 10 cm×2 cm silica gel column, eluting with 5×25 mL fractions of dichloromethane containing 0%, 2%, 3%, 4%, and 5% MeOH respectively. The product-containing fractions were combined and concentrated to give 2.1 mg of 5,6-dihydro-21-desethyl-21-cyclobutyl spinosyn A. MS M+760.

reactant | 21-desethyl-21-cyclobutyl spinosyn A | 0.004 mmol, 3.1 mg | C[C@@H]1[C@H](CCC[C@@H](OC(=O)C[C@H]2[C@@H]3C=C[C@@H]4C[C@H](C[C@H]4[C@@H]3C=C2C1=O)O[C@H]5[C@@H]([C@@H]([C@H]([C@@H](O5)C)OC)OC)OC)C6CCC6)O[C@H]7CC[C@@H]([C@H](O7)C)N(C)C | C43H67NO10
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 0.5 mL | C(C)O | C2H6O
product | 5,6-dihydro-21-desethyl-21-cyclobutyl spinosyn A | 2.1 mg | C[C@@H]1[C@H](CCC[C@@H](OC(=O)C[C@H]2[C@@H]3CC[C@@H]4C[C@H](C[C@H]4[C@@H]3C=C2C1=O)O[C@H]5[C@@H]([C@@H]([C@H]([C@@H](O5)C)OC)OC)OC)C6CCC6)O[C@H]7CC[C@@H]([C@H](O7)C)N(C)C | C43H69NO10
